US08685974B2
To a suspension of 4-[3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine (0.57 mmol), cyclopropylboronic acid (1.14 mmol) and sodium carbonate (1.14 mmol) in 2 mL of dichloroethane, was added a suspension of copper acetate (0.57 mmol) and 2,2′-bipyridyn (0.57 mmol) in 4 mL of hot dichloroethane. The mixture was warmed up to 70° C. and stirred for 3 h under air. The resulting mixture was cooled to room temperature, and a saturated ammonium chloride solution was added, followed by water. The organic layer was separated, and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine, dried with MgSO4, and concentrated under reduced pressure. The residue was purified by chromatography on basic alumina (heptane/ethyl acetate 20:1 to 10:1) to afford 43 mg (24% yield) of 4-[1-cyclopropyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine.

reactant | 4-[3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine | 0.57 mmol | ClC1=CC=C(S1)C1=NNC=C1C1=CC=NC=C1 | C12H8ClN3S
reactant | cyclopropylboronic acid | 1.14 mmol | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 1.14 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 4 mL | ClC(C)Cl | C2H4Cl2
catalyst | copper acetate | 0.57 mmol | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 4-[1-cyclopropyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine | 43 mg, 24% yield | C1(CC1)N1N=C(C(=C1)C1=CC=NC=C1)C=1SC(=CC1)Cl | C15H12ClN3S
